US06608078B2
A mixture of 1-benzyl-3-n-butyl-4-hydroxypiperidine (2.5 g, 10.0 mmole) and 20% palladium hydroxide (0.2 g) in methanol (25 ml) was stirred in hydrogen atmosphere (1 atm.) for 24 hr at 30° C. Catalyst was filtered off, washed with methanol, filtrate was concentrated to dryness to give 3-n-butyl-4-hydroxypiperidine as oil. Yield 1.4 g (87%), C9H19NO, m/z 158 (M+1) PMR (CDCl3): 0.94 (3H, t, CH3, j=8 Hz), 1.04-1.54 (7H, m, 3×CH2 & H3), 1.74 (1H, m, H5), 1.98 (2H, m, H5, & OH, D2O exchangeable), 2.22 (1H, m, H2), 2.7 (1H, m, H6), 3.12 (1H, m, H2), 3.3 (1H, m, H6), 3.46 (1H, bs, NH, D2O exchangeable), 3.98 (1H, m, H4).

reactant | 1-benzyl-3-n-butyl-4-hydroxypiperidine | 10.0 mmole, 2.5 g | C(C1=CC=CC=C1)N1CC(C(CC1)O)CCCC | C16H25NO
solvent | methanol | 25 ml | CO | CH4O
solvent | hydrogen | [H][H] | H2
catalyst | palladium hydroxide | 0.2 g | [OH-].[Pd+2].[OH-]
product | 3-n-butyl-4-hydroxypiperidine | C(CCC)C1CNCCC1O | C9H19NO
